US04188395
2-Phthalimidomethyl-6-methyl-4-(2'-methylmercaptophenyl)-1,4-dihydropyridine-3,5-dicarboxylic acid diethyl ester
A solution of 10 g of 2-methylmercapto-benzaldehyde (77% pure), 14 g of phthalimidoacetoacetic acid ethyl ester and 6.5 g of β-aminocrotonic acid ethyl ester in 100 ccs of ethanol is heated under reflux for 2×24 hours and, after subsequent cooling, the precipitate is filtered off.

reactant | 2-methylmercapto-benzaldehyde | 10 g | CSC1=C(C=O)C=CC=C1 | C8H8OS
reactant | phthalimidoacetoacetic acid ethyl ester | 14 g | C(C)OC(CC(=O)CN1C(C=2C(C1=O)=CC=CC2)=O)=O | C14H13NO5
reactant | β-aminocrotonic acid ethyl ester | 6.5 g | C(C)OC(\C=C(\C)/N)=O | C6H11NO2
solvent | ethanol | C(C)O | C2H6O
product | 2-Phthalimidomethyl-6-methyl-4-(2'-methylmercaptophenyl)-1,4-dihydropyridine-3,5-dicarboxylic acid diethyl ester | C(C)OC(=O)C1=C(NC(=C(C1C1=C(C=CC=C1)SC)C(=O)OCC)C)CN1C(C=2C(C1=O)=CC=CC2)=O | C28H28N2O6S
